US06828276B2
2.990 g (21.60 mmol) of potassium carbonate and 3.050 g (9.40 mmol) of ethyl 2,4-dibromo-3-hydroxybenzoate were introduced into 50 ml of N,N-dimethylformamide. 1.401 g (9.40 mmol) of bromomethylcyclobutane were added at room temperature and the mixture was heated for 6 hours at 120-130° C. The mixture was subsequently poured into water and extracted with diethyl ether. The combined organic phases were washed with water, dried over Na2SO4 and evaporated completely on a rotary evaporator. Drying in an oil-pump vacuum gave ethyl 2,4-dibromo-3-cyclobutylmethoxybenzoate as brown oil.

reactant | potassium carbonate | 21.60 mmol, 2.990 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2,4-dibromo-3-hydroxybenzoate | 9.40 mmol, 3.050 g | BrC1=C(C(=O)OCC)C=CC(=C1O)Br | C9H8Br2O3
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | bromomethylcyclobutane | 9.40 mmol, 1.401 g | BrCC1CCC1 | C5H9Br
solvent | water | O | H2O
product | ethyl 2,4-dibromo-3-cyclobutylmethoxybenzoate | BrC1=C(C(=O)OCC)C=CC(=C1OCC1CCC1)Br | C14H16Br2O3
